US04482552
(ii) 1-Amino-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol
A solution of 2-[2-hydroxy-3-[3-(1-piperidinylmethyl) phenoxy]propyl]-1H-isoindole-1,3-(2H) dione (17.6 g) and hydrazine hydrate (2.5 g) in ethanol (60 ml) was heated under reflux for 3 h. The resulting mixture was evaporated to a solid residue which was suspended in 1N hydrochloric acid (30 ml) and filtered. The filtrate was basified with an excess of potassium carbonate and extracted with isopropanol (3×40 ml). The isopropanol extracts were dried (Na2CO3) and evaporated to a gum which was chromatographed using System A. Crystallisation of the product from n-hexane:ether (20:1) gave the title compound as colourless grains (7.7 g), m.p. 74°-76.5°.

reactant | 2-[2-hydroxy-3-[3-(1-piperidinylmethyl) phenoxy]propyl]-1H-isoindole-1,3-(2H) dione | 17.6 g | OC(CN1C(C2=CC=CC=C2C1=O)=O)COC1=CC(=CC=C1)CN1CCCCC1 | C23H26N2O4
reactant | hydrazine hydrate | 2.5 g | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-Amino-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol | NCC(COC1=CC(=CC=C1)CN1CCCCC1)O | C15H24N2O2
